Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex / cephalexin / clindamycin / sulfamethoxazole / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Unstable angina
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___
 
History of Present Illness:
___ w/ CAD (___ ___ w/ ___ ___, CHB (PPM 
___, pAF, ESRD (___), IDDM2, HTN who presents for unstable 
angina.

He last saw his cardiologist on ___ for stable angina and 
said that he gets chest pain every other day and was taking 
imdur 60 mg ___ and coreg 6.25 mg BID. He refused ATC for his 
pAF, but is taking aspirin and Plavix (taking 4x per week on non 
HD days since he has bleeding). His last cath in ___ showed 
LM and 3VCAD w/ patent grafts (100% stenosis LMCA, oLAD, oLCX, 
OM1). LIMA to LAD, SVG to OM1, and SVG to left-PDA are all 
widely patent. Although D1/S1 and left posterolateral branches 
are potentially ischemic territories, all are modest in size and 
were felt best treated medically. He was had stable angina even 
on his device clinic check on ___ (showed pAF last event in 
___. 

He went to ___ today with worsening exertional 
chest discomfort in recent month (w/ mild ambulation and waking 
him from sleep frequently). He had an exercise stress test and 
developed chest discomfort worsening during exercise and had 
some angina equivalent in throat (per ___, MD). 
ECG showed worsened ST abnormalities with > 2 mm STD in 
II/III/aVF and > 1 mm STD V5/V6. Max HR 54%. Since his stress 
test strongly positive, his symptoms are consistent with 
unstable angina with plan to admit to ___ for cardiac cath.

In the ED initial vitals were: T 97.6 HR 67, BP 138/73, RR 18, 
96% RA 
EKG: NS (60) NA IVCD Q in V1-V2 TWI V5-V6, PVC
Labs/studies notable for: wbc 9.5, hgb 10.8, K 6.2 (hemolyzed), 
BUN/Cr 63/7.1, INR 1. TnT 0.03 and MB 4.
Patient was given: SLN 0.4 mg. He received a cardiac 
catheterization that showed patent grafts, severe multivessel 
CAD. The native LCX looked somewhat progressive from ___ year 
ago), but given uncertainty would recommend a MIBI to further 
evaluate and HD prior to repeat cath. For his K 6.2 he received 
insulin and dextrose with recheck at 4.5.

Vitals on transfer: T 97.7 BP 130/74 HR 68 RR 18 93% RA 

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for ___ chest pain mid 
sternum radiating to throat. He denies dyspnea on exertion, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope, or presyncope.  

On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors. 
All of the other review of systems were negative.  

 
Past Medical History:
- Multi-vessel CAD
- s/p 3v-CABG (LIMA-LAD, SVG-OM, SVG-LPDA) in ___ + MAIZE 
procedure
- Recurrent angina, plan for PCI on ___
- PAF initially on warfarin but stopped after MAZE in ___.
- Hypertension
- Diabetes mellitus, type 2
- Diabetic nephropathy
- ESRD, on HD ___) since ___
- Obesity
- Former smoker, quit ___ ago.
- Asthma, on prn inhalers
- Partial thyroidectomy in ___
- Depression ___
- R toe amputation due to frostbite

 
Social History:
___
Family History:
Non-contributory. No FH of early MI, arrhythmia, 
cardiomyopathies, sudden cardiac death. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Afebrile 144/58 64 18 91 RA 
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Unable to appreciate JVP given body habitus (and unable to 
sit upright) 
CARDIAC: Regular rate and rhythm, SEM radiating to carotids. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Bibasilar rales at 
flanks.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: R groin dressing c/d/I. No femoral bruits. WWP. 
Trace pitting edema up to mid tibia. R arm fistula NTTP w/o 
active bleeding or swelling. Decreased sensation in distal toes 
bilaterally.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric.
NEURO: CN II-XII intact, ___ bilateral ankle/wrist/finger grasp. 


DISCHARGE PHYSICAL EXAM:
========================
VS: Afebrile 130s-150s/60s-90s ___ 18 97% room air
Tele: NS, a-paced intermittently, 60s-70s
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Unable to appreciate JVP given body habitus
CARDIAC: Regular rate and rhythm, SEM radiating to carotids. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Slight bibasilar rales 
at flanks.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: R groin dressing c/d/I. No femoral bruits. WWP. 
Trace pitting edema up to mid tibia. R arm fistula NTTP w/o 
active bleeding or swelling. Decreased sensation in distal toes 
bilaterally.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric.
NEURO: CN II-XII intact, ___ bilateral ankle/wrist/finger grasp. 

 
Pertinent Results:
ADMISSION LABS:
================
___ 01:40PM BLOOD WBC-9.5 RBC-3.55* Hgb-10.8* Hct-33.3* 
MCV-94 MCH-30.4 MCHC-32.4 RDW-13.9 RDWSD-47.0* Plt ___
___ 01:40PM BLOOD Neuts-49.1 ___ Monos-10.0 Eos-3.4 
Baso-0.3 Im ___ AbsNeut-4.66 AbsLymp-3.50 AbsMono-0.95* 
AbsEos-0.32 AbsBaso-0.03
___ 01:40PM BLOOD ___ PTT-30.1 ___
___ 01:40PM BLOOD Glucose-98 UreaN-63* Creat-7.1*# Na-136 
K-6.2* Cl-97 HCO3-24 AnGap-21*
___ 01:40PM BLOOD ALT-19 AST-40 LD(LDH)-467* CK(CPK)-117 
AlkPhos-154* TotBili-0.3
___ 01:40PM BLOOD CK-MB-4
___ 01:40PM BLOOD cTropnT-0.03*
___ 07:55AM BLOOD cTropnT-0.03*
___ 01:40PM BLOOD Albumin-4.0 Calcium-9.4 Phos-6.8* Mg-2.3
___ 01:40PM BLOOD %HbA1c-7.7* eAG-174*
___ 04:28PM BLOOD K-4.5

IMAGES:
=======
Coronary angiogram (___): 
Left main and 3v CAD. 3 of 3 bypass grafts are widely 
patent.Compared with prior cath on ___, disease in mid LAD 
and subtotal occlusion of OM3 are unchanged. However, high-grade 
stenosis in the distal LCX appears new compared with prior cath.

Dominance: Left
* Left Main Coronary Artery
The LMCA has 99% stenosis.
* Left Anterior Descending
The LAD is 100% stump occluded.
* Circumflex
The Circumflex has previously deployed stents in the ___ 
segment with diffuse 99% stenosis. 100%
occlusion in the mid segment..
* Right Coronary Artery
The RCA is 100% occluded ___ and fills distally via 
collaterals. Small, non-dominant vessel.

LIMA to LAD is widely patent. There is 90% stenosis in 
retrograde limb of LAD (mid LAD) and this
backfills into a moderate sized D1 and small S1.
SVG to OM1 is widely patent.
SVG to Left-PDA is widely patent. There is 40% stenosis in 
retrograde limb of L-PDA which backfills mid
and distal LCX. The distal LCX has diffuse 60% stenosis with 
focal superimposed 90% stenosis. The
native LCX backfills into a moderate sized OM2, and a moderate 
sized OM3 has 99% ostial stenosis and
slow flow.

DISCHARGE LABS:
===============
___ 07:55AM BLOOD WBC-9.8 RBC-3.56*# Hgb-11.0*# Hct-33.2* 
MCV-93 MCH-30.9 MCHC-33.1 RDW-13.9 RDWSD-47.4* Plt ___
___ 07:55AM BLOOD Glucose-51* UreaN-70* Creat-7.8*# Na-138 
K-4.9 Cl-99 HCO3-21* AnGap-23*
___ 07:55AM BLOOD Calcium-9.3 Phos-7.0* Mg-2.___ w/ CAD (3VCABG ___ w/ ___ ___, CHB (PPM 
___, pAF, ESRD (___), IDDM2, HTN who presents for unstable 
angina with multivessel disease on cath and unclear culprit 
lesion.

He presented with worsening stable angina concerning for 
unstable angina. He has a history of 3VCABG ___ w/ ___ 
___ ___. He had a grossly positive EKG stress test with 
worsened ST abnormalities with > 2 mm STD in II/III/aVF and > 1 
mm STD V5/V6. TnT stable at 0.03. He as taken to the cath lab 
(___) w/ native LCX disease thought to be progressive since last 
year, but would like MIBI to evaluate prior to possible 
intervention. His chest pain improved spontaneously after his 
cath. He was continued on his home medications, but his home 
imdur was increased from 60 mg ___ to 90 mg ___. He will have an 
exercise MIBI as an outpatient for further evaluation of his 
CAD. He missed his HD on ___ so he had it on ___ without 
complications.

#Stable angina:
#Coronary artery disease:
He has a history of 3VCABG ___ w/ ___ ___. He 
had a grossly positive EKG stress test with worsened ST 
abnormalities with > 2 mm STD in II/III/aVF and > 1 mm STD 
V5/V6. He as taken to the cath lab (___) w/ native LCX disease 
thought to be progressive since last year, but would like MIBI 
to evaluate prior to possible intervention. He was continued on 
his home Plavix, aspirin, coreg. His imdur was increased from 60 
mg ___ to 90 mg ___.

#End-stage renal disease:
On HD ___ and he missed his F appointment so he had HD on 
___ without complications. He was continued on nephrocaps, 
Lasix 80 mg on non HD days.

#Anemia:
Hgb 10 on admission. Likely secondary to ESRD. No LH, HR/BP 
stable and unremarkable. Dropped to ~8 on post-cath check, but 
likely lab error as all counts were down and his recheck hgb 
normalized.

#Insulin-dependent diabetes mellitus type 2:
On insulin aspart ___ U TID and lantus 40 U BID at home. 
Continued insulin while inpatient. 

#Hypertension: Continued home amlodipine 5 mg BID

#Asthma: Continued home albuterol nebs PRN and fluticasone 110 
mcg 2 puffs BID.

#Gastroesophageal reflux disease: Continued home pantoprazole 40 
mg ___ ___

___ ISSUES:
====================
-Follow-up: He will follow-up with cardiology as an outpatient.
-Changed medications: His imdur was increased from 60 mg ___ to 
90 mg ___.
-Angina: He originally had symptoms concerning for unstable 
angina, but no clear culprit lesion on cath. Given that he may 
have worsening LCX, he will need an exercise MIBI as an 
outpatient and then consideration for outpatient catheterization 
if this is the cause of his symptoms and if his symptoms are 
refractory to medical management.
-ESRD: He had HD on ___. His next session will be on ___.
-Code status: Full code
-Contact: ___ (wife) ___, ___ (son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. B complex with C#20-folic acid 1 mg oral DAILY 
2. Furosemide 80 mg PO 4X/WEEK (___) 
3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Atorvastatin 40 mg PO QPM 
7. amLODIPine 5 mg PO DAILY 
8. Carvedilol 6.25 mg PO BID 
9. Pantoprazole 40 mg PO Q24H 
10. Nitroglycerin Patch 0.2 mg/hr TD DAILY:PRN chest pain 
11. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
12. Clopidogrel 75 mg PO 4X/WEEK (___) 
13. Glargine 40 Units Breakfast
Glargine 40 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
14. Aspirin 81 mg PO DAILY 
15. coenzyme Q10 100 mg oral DAILY 

 
Discharge Medications:
1.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 3 tablet(s) by mouth every 
morning Disp #*90 Tablet Refills:*0 
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
4.  amLODIPine 5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  B complex with C#20-folic acid 1 mg oral DAILY  
8.  Carvedilol 6.25 mg PO BID  
9.  Clopidogrel 75 mg PO 4X/WEEK (___)  
10.  coenzyme Q10 100 mg oral DAILY  
11.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
12.  Furosemide 80 mg PO 4X/WEEK (___)  
13.  Glargine 40 Units Breakfast
Glargine 40 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
14.  Nitroglycerin Patch 0.2 mg/hr TD DAILY:PRN chest pain  
15.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
Stable angina
Coronary artery disease

Secondary diagnosis:
====================
Complete heart block with permanent pacemaker
Paroxysmal atrial fibrillation not on anticoagulation
End-stage renal disease
Insulin-dependent diabetes mellitus type 2
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital for chest pain concerning for 
heart attack. You had a cardiac catheterization that showed a 
possible lesion that could be causing the chest pain, but 
stenting was held off with a plan for a nuclear stress test as 
an outpatient to further evaluate. You will be called about this 
stress test. Your home isosorbide mononitrate was increased to 
prevent chest pain. Please continue taking your medications as 
directed (see below) and follow-up with your cardiologist as an 
outpatient. 

It was a pleasure caring for you,

-___ medical care team
 
Followup Instructions:
___